US05484942
2 drops of trifluoroacetic acid are added to a solution of 1.3 g of 3,4-dihydro-4,4-diphenyl-2H-thiapyran 1,1-dioxide and 1.75 cm3 of N-butoxymethyl-N-trimethylsilylmethylbenzylamine in 12 cm3 of anhydrous dichloromethane, and the mixture is stirred for 30 minutes at 30° C. 1.75 cm3 of N-butoxymethyl-N-trimethylsilylmethylbenzylamine and 2 drops of trifluoroacetic acid are again added and the mixture is stirred for 2 hours at 35° C. This last procedure is once again repeated and after stirring for 1 hour, 1 g of potassium carbonate is added. The suspension is filtered and the filtrate concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 3.2 cm, height 35 cm), eluting under a nitrogen pressure of 0.5 bar with a cyclohexane and ethyl acetate mixture (80/20 by volume) and collecting fractions of 30 cm3. Fractions 20 to 28 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). 0.7 g of (4aRS,7aRS)-6-benzyl4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide is obtained in the form of white crystals; melting point 186° l C.

reactant | 3,4-dihydro-4,4-diphenyl-2H-thiapyran 1,1-dioxide | 1.3 g | C1(=CC=CC=C1)C1(CCS(C=C1)(=O)=O)C1=CC=CC=C1 | C17H16O2S
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 1.75 cm3 | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 1.75 cm3 | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
catalyst | trifluoroacetic acid | 2 drops | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 12 cm3 | ClCCl | CH2Cl2
catalyst | trifluoroacetic acid | 2 drops | FC(C(=O)O)(F)F | C2HF3O2
product | (4aRS,7aRS)-6-benzyl4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1,1-dioxide | 0.7 g | C(C1=CC=CC=C1)N1CC2C(C1)C(CCS2(=O)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H27NO2S
